US08258175B2
Dry CH3CN (50 mL) was added to 2-(4-hydroxybenzoyl)benzoic acid methyl ester (3.65 g, 15 mmol) followed by cesium carbonate (5.4 g, 16.5 mmol) and trimethylsilylethoxymethylchloride (2.9 mL, 16.5 mmol). The system was stirred at room temperature under nitrogen for 24 h and monitored by TLC. Removal of the solvent gave a light yellow oil that was taken up into ethyl acetate (100 mL), washed with water (3×50 mL), brine (40 mL) and dried with MgSO4. The solvent was removed and the crude product was purified by flash column chromatography (5:95 EtOAc:petrol) to give 2-[4-(2-trimethylsilanylethoxymethoxy)benzoyl]benzoic acid methyl ester as a yellow oil (3.94 g, 10.2 mmol, 67%); Rf 0.79 (40:60 EtOAc:petrol). λmax (CH3OH)/nm 282, Abs 1.072. IR: 2939, 1720, 1666, 1589, 1489 cm−1. 1H NMR: (300 MHz, CDCl3) δ 0.00 (s, 9H, Si—(CH3)3), 0.94 (m, 2H, R—O—CH2—CH2—Si), 3.66 (s, 3H, COOCH3), 3.75 (m, 2H, O—CH2—CH2—Si), 5.27 (s, 2H, O—CH2—O), 7.05 (m, 2H, Ar—H), 7.37 (m, 1H, Ar—H), 7.53-7.66 (dtd, 2H, J=22.6, 7.4, 1.4 Hz, Ar—H), 7.72 (m, 2H, Ar—H), 8.05 (m, 1H, Ar—H). 13C NMR: (75 MHz, d6-DMSO) δ −2, 16.8, 51.5, 65.3, 91.5, 115.1, 127, 128, 129, 129.2, 129.6, 130.4, 132, 140.7, 160.2, 165.2, 194. LC/MS-ES+ m/z 163.2, 297.1, 387.1 [MH+], 409 [MNa+]. HRMS (EI) m/z Calcd. for C21H26O5Si: 386.1549. Found 386.1562.

reactant | CH3CN | 50 mL | CC#N | C2H3N
reactant | 2-(4-hydroxybenzoyl)benzoic acid methyl ester | 15 mmol, 3.65 g | COC(C1=C(C=CC=C1)C(C1=CC=C(C=C1)O)=O)=O | C15H12O4
reactant | cesium carbonate | 16.5 mmol, 5.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trimethylsilylethoxymethylchloride | 16.5 mmol, 2.9 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2-trimethylsilanylethoxymethoxy)benzoyl]benzoic acid methyl ester | 10.2 mmol, 3.94 g, 67% | COC(C1=C(C=CC=C1)C(C1=CC=C(C=C1)OCOCC[Si](C)(C)C)=O)=O | C21H26O5Si
